US09340547B2
(S)-Methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate
The title compound was prepared following the experimental procedure described in preparation 20a from 6.1 g (18.38 mmol) of methyl 1-amino-3-bromo-1H-pyrrole-2-carboxylate and 3.5 g (28.50 mmol) of (S)-2-(tert-butoxycarbonylamino)propanoic acid (purchased from Aldrich). The crude product was purified by flash chromatography in hexane/ethyl acetate (0 to 25%) to afford 4.34 g (61% yield) of the title compound.

reactant | methyl 1-amino-3-bromo-1H-pyrrole-2-carboxylate | 18.38 mmol, 6.1 g | NN1C(=C(C=C1)Br)C(=O)OC | C6H7BrN2O2
reactant | (S)-2-(tert-butoxycarbonylamino)propanoic acid | 28.50 mmol, 3.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)C | C8H15NO4
product | (S)-Methyl 3-bromo-1-(2-(tert-butoxycarbonylamino)propanamido)-1H-pyrrole-2-carboxylate | 4.34 g, 61% yield | BrC1=C(N(C=C1)NC([C@H](C)NC(=O)OC(C)(C)C)=O)C(=O)OC | C14H20BrN3O5
